US06232320B1
4-chlorothieno[3,2-c]pyridine-2-carbonitrile
A solution of 4-oxo-4,5-dihydrothieno[3,2-c]pyridine-2-nitrile (500 mg, 2.84 mmol) prepared as in F. Eloy and A. Deryckere, Bull. Soc. Chim. Belg. 1970, 79, 301) and phosphoryl chloride (5 mL) was heated at reflux for 1 hour. The formed red solution was poured onto ice and extracted with methylene chloride (2×150 mL). The dichloromethane solution was dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography with 1:10 EtOAc/hexanes to provide the title compound.

reactant | 4-oxo-4,5-dihydrothieno[3,2-c]pyridine-2-nitrile | 2.84 mmol, 500 mg | O=C1NC=CC2=C1C=C(S2)C#N | C8H4N2OS
reactant | phosphoryl chloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chlorothieno[3,2-c]pyridine-2-carbonitrile | ClC1=NC=CC2=C1C=C(S2)C#N | C8H3ClN2S
